US09315458B2
B) 4-formyl-3-hydroxy-2-methylbenzonitrile
To a solution of 3-hydroxy-2-methylbenzonitrile (7.00 g) in THF (100 mL) were added triethylamine (13.1 g), magnesium chloride (12.4 g) and paraformaldehyde (6.60 g), and the mixture was heated with reflux for 16 hr under nitrogen atmosphere. The reaction mixture was poured into 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (1.30 g).

reactant | 3-hydroxy-2-methylbenzonitrile | 7.00 g | OC=1C(=C(C#N)C=CC1)C | C8H7NO
reactant | magnesium chloride | 12.4 g | [Cl-].[Mg+2].[Cl-]
reactant | paraformaldehyde | 6.60 g | C=O | CH2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 13.1 g | C(C)N(CC)CC | C6H15N
product | 4-formyl-3-hydroxy-2-methylbenzonitrile | 1.30 g | C(=O)C1=C(C(=C(C#N)C=C1)C)O | C9H7NO2
